US05466701
A solution of triceric tetraammonium hexanitrate (0.98 g) in water (3 mL) was added dropwise to a solution of 2-(4,7-dimethoxy-5-acetylbenzofuran-6-yl)oxymethyl-4-isopropyl-6-methoxysaccharin (0.3 g) in acetonitrile (5 mL). The mixture was stirred at room temperature for 15 minutes and poured into ice-water. The resulting gold colored solid was purified by rapid chromatography on silica gel with dichloromethane-ether (95:5) as eluant and crystallization with sonication from ethanol affording 2-(5-acetyl-4,7-dihydro-4,7-dioxobenzofuran-6-yl)oxymethyl-4-isopropyl-6-methoxysaccharin (0.13 g, 46.6% yield, m.r. 193°-195° C. with decomposition).

reactant | tetraammonium hexanitrate | 0.98 g | [N+](=O)([O-])[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[NH4+].[NH4+].[NH4+].[NH4+]
reactant | 2-(4,7-dimethoxy-5-acetylbenzofuran-6-yl)oxymethyl-4-isopropyl-6-methoxysaccharin | 0.3 g | COC1=C(C(=C(C2=C1C=CO2)OC)OCN2S(=O)(=O)C1=CC(=CC(=C1C2=O)C(C)C)OC)C(C)=O | C24H25NO9S
solvent | water | 3 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-(5-acetyl-4,7-dihydro-4,7-dioxobenzofuran-6-yl)oxymethyl-4-isopropyl-6-methoxysaccharin | 0.13 g, 46.6% yield | C(C)(=O)C1=C(C(C2=C(C=CO2)C1=O)=O)OCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C22H19NO9S
